US06489517B1
First Step of the Process: Preparation of 4-Chloro-2,5-xylenol
To a solution of 100 g (0.82 mol) of 2,5-xylenol and 0.9 g of diphenyl sulfide in 700 mL of dichloromethane was added a solution of 106 g (0.79 mol) of sulfuryl chloride in 100 mL of dichloromethane, maintaining the temperature at 5-15° C. The mixture was stirred for an additional hour and then poured onto 400 g of ice-water containing 5 g of sodium bisulfite. The layers were separated, and the organic phase was washed with water, dried (MgSO4), and concentrated to dryness. The crude solids were slurried with a minimum amount of hexanes, filtered, and suction-dried to give 121 g (94%) of product, homogeneous by Thin Layer Chromatography (TLC), GC, and 1H-NMR analysis. 1H-NMR (CDCl3) δ 2.18 (s, 3H), 2.27 (s, 3H), 4.61 (s, 1H), 6.63 (s, 1H), 7.07 (s, 1H). Lit (Blackstock, Aust. J. Chem. 1973, 26, 775): mp 74-75° C.

reactant | 2,5-xylenol | 0.82 mol, 100 g | C=1(C(=CC=C(C1)C)C)O | C8H10O
reactant | sulfuryl chloride | 0.79 mol, 106 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | diphenyl sulfide | 0.9 g | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
product | 4-Chloro-2,5-xylenol | 121 g, 94% | ClC=1C=C(C(=CC1C)O)C | C8H9ClO
